US04379167
4-Chloro-1-(4-chloro-3-methylphenoxy)-2-butanol
To a mixture of 286 g. (2 moles) of 3-methyl-4-chlorophenol, 700 ml. of tertiary butanol, 700 ml. of water and 3.0 moles of 1,4-dichloro-2-butanol, sodium hydroxide (2.9 moles, 230 g. in 700 ml. water) was added with stirring at 40° C. to maintain a pH of 9.5-10.0 as the reaction progressed. The addition was 10 hr.; the reaction was stirred at 40° C. for 48 hr. The resulting reaction mixture was extracted with chloroform sodium hydroxide at 25° C. The chloroform extract was washed with sodium sulfate. The dried chloroform solution was concentrated and the residue was distilled under reduced pressure to give 110.9 g. of the product which distilled at 135°-143° C./0.007 mm. and melted at 87°-89° C. after recrystallization with isopropanol and pet. ether (30.60°).

reactant | 3-methyl-4-chlorophenol | 2 moles | CC=1C=C(C=CC1Cl)O | C7H7ClO
reactant | tertiary butanol | C(C)(C)(C)O | C4H10O
reactant | 1,4-dichloro-2-butanol | 3.0 moles | ClCC(CCCl)O | C4H8Cl2O
reactant | sodium hydroxide | 2.9 moles, 700 ml, 230 g | [OH-].[Na+]
solvent | water | O | H2O
product | 4-Chloro-1-(4-chloro-3-methylphenoxy)-2-butanol | ClCCC(COC1=CC(=C(C=C1)Cl)C)O | C11H14Cl2O2
